US07105679B2
2,8-Bis-(tert-butyl-dimethyl-silyloxy)-11,12-dihydro-5H-6,13-dioxa-benzo[3,4]cyclohepta[1,2-a]naphthalen-5-ol
2,8-Bis-(tert-butyl-dimethyl-silyloxy)-11,12-dihydro-6,13-dioxa-benzo[3,4]cyclohepta[1,2-a]naphthalen-5-one (35 mg, 0.066 mmol) was dissolved in toluene (5 mL) and the resulting solution was cooled to −78° C. A solution of Dibal-H solution (70 μL, 1.5 M solution in toluene) was then added to above reaction mix at −78° C. The reaction mixture was stirred at −78° C. for 3 h. To the reaction mixture was then added methanol (0.5 mL), and then Rochelle solution (2 ml, 1M solution). The reaction mixture was gradually warmed to room temperature. The reaction mix was diluted with CH2Cl2 (30 mL), the organic layer was separated and dried over Na2SO4. The solution was filtered and evaporated to yield a crude product that was purified on SiO2 to yield the title compound as a solid.

reactant | 2,8-Bis-(tert-butyl-dimethyl-silyloxy)-11,12-dihydro-6,13-dioxa-benzo[3,4]cyclohepta[1,2-a]naphthalen-5-one | 0.066 mmol, 35 mg | C(C)(C)(C)[Si](OC1=CC2=C(C3=C(C4=CC=C(C=C4OC3=O)O[Si](C)(C)C(C)(C)C)CCO2)C=C1)(C)C | C29H40O5Si2
reactant | Dibal-H | 1.5 M, 70 μL | CC(C)C[Al]CC(C)C
reactant | methanol | 0.5 mL | CO | CH4O
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | 2,8-Bis-(tert-butyl-dimethyl-silyloxy)-11,12-dihydro-5H-6,13-dioxa-benzo[3,4]cyclohepta[1,2-a]naphthalen-5-ol | C(C)(C)(C)[Si](OC1=CC2=C(C3=C(C4=CC=C(C=C4OC3O)O[Si](C)(C)C(C)(C)C)CCO2)C=C1)(C)C | C29H42O5Si2
